US08455475B2
tert-Butyl 8-(4-fluorophenyl)-2,8-diazaspiro[4.5]decane-2-carboxylate
Sodium t-butylate (6.24 mmol, 3.0 eq.) was added to a stirred solution of tert-butyl 2,8-diazaspiro[4.5]decane-2-carboxylate (2.08 mmol, 1.0 eq.) and 1-bromo-4-fluorobenzene (2.08 mmol, 1.0 eq.) in toluene (15 ml) and the reaction mixture was degassed with N2. BINAP (0.12 mmol, 0.06 eq.) and Pd(OAc)2 (0.04 mmol, 0.02 eq.) were added and the reaction mixture obtained was heated at 120° C. for 12 h. The reaction mixture was filtered over Celite and the filtrate was concentrated in vacuo in order to obtain the crude product, which was purified by column chromatography (silica gel, 12% ethyl acetate in hexane), so that the desired product was achieved. Yield: 28%

reactant | tert-butyl 2,8-diazaspiro[4.5]decane-2-carboxylate | 2.08 mmol, 1.0 eq. | C1N(CCC12CCNCC2)C(=O)OC(C)(C)C | C13H24N2O2
reactant | 1-bromo-4-fluorobenzene | 2.08 mmol, 1.0 eq. | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | BINAP | 0.12 mmol, 0.06 eq. | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.04 mmol, 0.02 eq. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-Butyl 8-(4-fluorophenyl)-2,8-diazaspiro[4.5]decane-2-carboxylate | Yield: 28% | FC1=CC=C(C=C1)N1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C19H27FN2O2
